US07005526B2
1-[2-(4-{2-[(E)-2-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole
To a solution of 710 mg (1.46 mmol) 1-[2-(2-methyl-4-{2-[2-(E)-(4-chloro-2-fluorophenyl)-vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole in 35 ml dichloromethane at −30° C. were added dropwise during 20 min. 493 mg (2.20 mmol) 3-chloro-perbenzoic acid (77% peracid) dissolved in 20 ml ethyl acetate. After 1 hour stirring at −30° C. the mixture was allowed to warm up over night, stirred another 48 hours at room temperature, diluted with dichloromethane, washed with sodium bicarbonate solution, then with water, dried and evaporated. Elution from silica with ethyl acetate (1–10% methanol gradient) gave as the second fraction 199 mg (27%) title compound as white solid.

reactant | 1-[2-(2-methyl-4-{2-[2-(E)-(4-chloro-2-fluorophenyl)-vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole | 1.46 mmol, 710 mg | CC1=C(CSCCN2N=NC=C2)C=CC(=C1)OCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)Cl)F | C24H22ClFN4O2S
reactant | 3-chloro-perbenzoic acid | 2.20 mmol, 493 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-{2-[(E)-2-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 199 mg, 27% | ClC1=CC(=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC(=C(C=C1)CS(=O)CCN1N=NC=C1)C)F | C24H22ClFN4O3S
